US07226923B2
4-Bromo-7-bromomethyl-2-isopropyl-2H-phthalazin-1-one
A solution of 4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one (0.74 g, 2.5 mmol) in acetonitrile (5 ml) was added dropwise to a stirred suspension of trimethylsilyl bromide (TMSBr) (0.9 g, 6.3 mmol) and LiBr (0.41 g, 5 mmol) in acetonitrile (15 ml). The reaction mixture was heated to 80° C. for 24 hours, after which time the reaction mixture was cooled to room temperature and the solvent removed under vacuum. The resulting residue was purified by flash column chromatography (elution: 85% heptane, 15% ethyl acetate) to give the title compound (0.4 g, 44% yield) as a white solid.

reactant | 4-Bromo-7-hydroxymethyl-2-isopropyl-2H-phthalazin-1-one | 2.5 mmol, 0.74 g | BrC1=NN(C(C2=CC(=CC=C12)CO)=O)C(C)C | C12H13BrN2O2
reactant | trimethylsilyl bromide | 6.3 mmol, 0.9 g | C[Si](C)(C)Br | C3H9BrSi
reactant | LiBr | 5 mmol, 0.41 g | [Li+].[Br-]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-Bromo-7-bromomethyl-2-isopropyl-2H-phthalazin-1-one | 0.4 g, 44% yield | BrC1=NN(C(C2=CC(=CC=C12)CBr)=O)C(C)C | C12H12Br2N2O
